US07592362B2
Methyl 3-[(1-benzyl-1H-imidazol-2-yl)carbonyl]benzoate
A solution of 3-(methoxycarbonyl)benzoic acid (2.53 g, 14.0 mmol) in thionyl chloride (7.17 ml, 98.30 mmol) was heated at reflux for 1 h. The mixture was cooled and concentrated in vacuo and to the residue was added toluene. This solution was concentrated in vacuo and to the residue was added anhydrous acetonitrile (24 ml), 1-benzyl-1H-imidazole (2.22 g, 14.0 mmol) and triethylamine (2.35 ml, 16.9 mmol). The reaction mixture was heated at reflux for 18 h and then cooled and concentrated in vacuo. To the residue was added ethyl acetate and the solution was washed with water and saturated aqueous sodium hydrogen carbonate solution. The organic phase was filtered through silica, eluting with ethyl acetate, and the filtrate was concentrated in vacuo to give the title compound (3.82 g).

reactant | 3-(methoxycarbonyl)benzoic acid | 14.0 mmol, 2.53 g | COC(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O4
reactant | thionyl chloride | 98.30 mmol, 7.17 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-benzyl-1H-imidazole | 14.0 mmol, 2.22 g | C(C1=CC=CC=C1)N1C=NC=C1 | C10H10N2
reactant | triethylamine | 16.9 mmol, 2.35 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 24 ml | C(C)#N | C2H3N
product | Methyl 3-[(1-benzyl-1H-imidazol-2-yl)carbonyl]benzoate | 3.82 g | C(C1=CC=CC=C1)N1C(=NC=C1)C(=O)C=1C=C(C(=O)OC)C=CC1 | C19H16N2O3
